US04174317
(A) N'-Benzylidene-N,N-dimethylethylenediamine
A solution of 88.0 g of N,N-dimethylethylenediamine in 150 ml. of benzene is treated with a solution of 106 g of freshly distilled benzaldehyde in 150 ml. of benzene. This mixture is stirred and refluxed for 2 hours while collecting 22 ml. of an aqueous layer in a Dean-Stark tube. The solvent is then distilled and the residue fractionated to give 156 g of distillate, boiling point 98°-100° C. at 4 mm. of Hg.

reactant | N,N-dimethylethylenediamine | 88.0 g | CN(CCN)C | C4H12N2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N'-Benzylidene-N,N-dimethylethylenediamine | C(C1=CC=CC=C1)=NCCN(C)C | C11H16N2
